data/mechanism_extracts/AdvSynthCatal/10.1002_adsc.202001583.json
{"doi": "10.1002_adsc.202001583", "journal": "AdvSynthCatal", "is_review": false, "rxn_class_summary": "Electrochemical radical cascade cyclization of 2-aryl-N-acryloyl indoles with arylsulfonyl hydrazides (or KBr) to access sulfonyl- and bromo-substituted indolo[2,1-a]isoquinolinones via iodide/bromide mediation.", "mechanism_family": ["radical_anodic", "mediator_anodic", "paired_electrolysis"], "electrochemical_role": "Anodic oxidation of iodide (or bromide) to molecular I2 (or Br radical); I2 then activates arylsulfonyl hydrazide to release arylsulfonyl radical; cathode reduces protons to H2.", "key_intermediates": [{"name": "molecular iodine (I2) generated by anodic oxidation of 2 I-", "smiles": "II", "role": "transient"}, {"name": "sulfonyl iodide Ts-I (from I2 + TsNHNH2)", "smiles": "O=S(=O)(c1ccc(C)cc1)I", "role": "transient"}, {"name": "arylsulfonyl radical A", "smiles": "[O]S(=O)(=O)c1ccc(C)cc1", "role": "reactive"}, {"name": "C-centered radical B from sulfonyl radical addition to acryloyl alkene", "smiles": null, "role": "reactive"}, {"name": "cyclohexadienyl radical C from 6-endo-trig cyclization onto 2-aryl ring", "smiles": null, "role": "reactive"}, {"name": "arenium cation D after oxidation of C (by anode or I2)", "smiles": null, "role": "reactive"}, {"name": "indolo[2,1-a]isoquinolinone product 3a", "smiles": null, "role": "reactive"}], "electron_flow": "At the anode, two iodide anions lose 2 e- to form I2, which converts arylsulfonyl hydrazide into Ts-I and releases a sulfonyl radical; this radical adds to the acrylamide olefin, undergoes 6-endo-trig cyclization onto the 2-aryl ring, and the resulting cyclohexadienyl radical is further oxidized (anodically or by I2) to a cation that deprotonates to give the aromatic product, while protons are reduced at the cathode to H2.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Reaction fully inhibited, indicating a radical pathway."}, {"name": "PBN (N-tert-butyl-α-phenylnitrone)", "smiles": "O=[N+]([O-])=Cc1ccccc1.CC(C)(C)N", "purpose": "radical_trap", "observation": "Reaction fully inhibited under standard conditions."}, {"name": "I2 (stoichiometric, no current)", "smiles": "II", "purpose": "intermediate_trap", "observation": "Product 3a formed in 48% yield without electricity, supporting I2 as the active mediator."}, {"name": "NIS", "smiles": "O=C1CCC(=O)N1I", "purpose": "intermediate_trap", "observation": "3a formed in 45% yield without current, consistent with electrophilic iodine species mediating the reaction."}, {"name": "Ts-I (4-methylbenzenesulfonyl iodide)", "smiles": "Cc1ccc(S(=O)(=O)I)cc1", "purpose": "intermediate_trap", "observation": "3a formed in 41% yield without current, supporting Ts-I as an on-cycle intermediate."}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_other", "stoichiometric_intermediate", "on/off_light_or_current", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "X-ray structure (CCDC 2050276) confirms product connectivity for 4a. For the bromo variant, an analogous cycle is proposed in which a Br radical is generated anodically from KBr and adds to the alkene to initiate the same 6-endo-trig cascade. No KIE, CV, EPR, or DFT data were reported."}
